US05977122
16c) 3-(3-aminophenylethynyl)-3-(3-cyclopentyloxy-4-methoxyphenyl)cyclohexan-1-one
To a solution of 3-(3-cyclopentyloxy-4-methoxyphenyl)-3-(3-trifluoroacetamidophenylethynyl)cyclohexan-1-one (0.62 g, 1.24 mmol) in 95:5 methanol/water (10 mL) under an argon atmosphere was added potassium carbonate (0.86 g, 6.2 mmol). The mixture was refluxed for 6 h and was stirred for 18 h at room temperature. The solid precipitate was collected and purified by trituration from ethyl acetate/hexanes to provide the title compound as a white solid (0.39 g, 77%), m.p. 100-102° C.

reactant | 3-(3-cyclopentyloxy-4-methoxyphenyl)-3-(3-trifluoroacetamidophenylethynyl)cyclohexan-1-one | 1.24 mmol, 0.62 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CC(CCC1)=O)C#CC1=CC(=CC=C1)NC(C(F)(F)F)=O | C28H28F3NO4
reactant | potassium carbonate | 6.2 mmol, 0.86 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol water | 10 mL | CO.O
product | 3-(3-aminophenylethynyl)-3-(3-cyclopentyloxy-4-methoxyphenyl)cyclohexan-1-one | 0.39 g, 77% | NC=1C=C(C=CC1)C#CC1(CC(CCC1)=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C26H29NO3
